US05716971
A solution of 2-bromo-4-methoxymethoxymethylphenol methoxymethyl ether (11.18 g) in diethyl ether (400 ml) was cooled to -78° C. To the solution was added dropwise a 1.6M n-butyl lithium hexane solution (28 ml) under argon atmosphere. The mixture was stirred for one hour while maintaining the temperature, to which was added dropwise DMF (5 ml), followed by raising the temperature up to room temperature and stirring overnight. The reaction mixture was subjected to extraction with the addition of water and ethyl acetate. The organic layer was washed (a saturated aqueous saline solution) and dried (anhydrous magnesium sulfate). Then, the solvent was distilled off under reduced pressure, and the residue was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 5-methoxymethoxymethyl salicylaldehyde methoxymethyl ether (7.23 g) (Compound B-23). The physical properties are shown in Table 7.

reactant | 2-bromo-4-methoxymethoxymethylphenol methoxymethyl ether | 11.18 g | COCOC1=C(C=C(C=C1)COCOC)Br | C11H15BrO4
reactant | n-butyl lithium hexane | 1.6M, 28 ml | CCCCCC.C(CCC)[Li]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | 5-methoxymethoxymethyl salicylaldehyde methoxymethyl ether | 7.23 g | COCOC=1C(C=O)=CC(=CC1)COCOC | C12H16O5
